US06274608B1
4-(1-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-naphtalene-2-yl)-ethoxy)-benzaldehyde
A solution of 1-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanol (246 mg; 1.0 mmol), triphenylphosphine (262 mg; 1.0 mmol), diethyl azodicarboxylate (0.153 ml; 1.0 mmol) and 4-hydroxybenzaldehyde (183 mg; 1.5 mmol) in THF (20 ml) was stirred at 0° C. for 1.5 hours and for 16 hours at room temperature. Water was added (20 ml) and the mixture was extracted with methylene chloride (3×25 ml). The combined organic phases were dried and evaporated. The residue was purified on column chromatography using ethyl acetate: hexane (1:3) as eluent. Yield 180 mg.

reactant | 1-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanol | 1.0 mmol, 246 mg | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(C)O | C17H26O
reactant | triphenylphosphine | 1.0 mmol, 262 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.0 mmol, 0.153 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-hydroxybenzaldehyde | 1.5 mmol, 183 mg | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 4-(1-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-naphtalene-2-yl)-ethoxy)-benzaldehyde | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(C)OC1=CC=C(C=O)C=C1 | C24H30O2
